US07371743B2
(d) N-[(1R)-1-(5-bromo-1H-benzimidazol-2-yl)-2-hydroxy-ethyl]-3-methyl-4-(morpholin-3-on-4-yl)-benzamide
Prepared analogously to Example 1f from 3-methyl-4-(morpholin-3-on-4-yl)-benzoic acid, (1R)-1-(5-bromo-1H-benzimidazol-2-yl)-2-hydroxy-ethylamine, TBTU and NMM in DMF with subsequent purification by preparative HPLC.

reactant | 3-methyl-4-(morpholin-3-on-4-yl)-benzoic acid | CC=1C=C(C(=O)O)C=CC1N1C(COCC1)=O | C12H13NO4
reactant | (1R)-1-(5-bromo-1H-benzimidazol-2-yl)-2-hydroxy-ethylamine | BrC1=CC2=C(NC(=N2)[C@H](CO)N)C=C1 | C9H10BrN3O
reactant | TBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | NMM | CN1CCOCC1 | C5H11NO
solvent | DMF | CN(C)C=O | C3H7NO
product | N-[(1R)-1-(5-bromo-1H-benzimidazol-2-yl)-2-hydroxy-ethyl]-3-methyl-4-(morpholin-3-on-4-yl)-benzamide | BrC1=CC2=C(NC(=N2)[C@H](CO)NC(C2=CC(=C(C=C2)N2C(COCC2)=O)C)=O)C=C1 | C21H21BrN4O4
